US04661477
A mixture of 13.81 g. (0.1 moles) of diethyl phosphite, 20 ml. of water and 20 ml. of ethanol is reacted with a mixture of 15.12 g. (0.1 moles) of 1-methyl-2-phenoxyethyl amine and 30 ml. of ethanol as described in Example 1. 21.4 g. of 1-methyl-2-phenoxyethyl-ammoniumethyl phosphonate is obtained. Yield: 81.9%.

reactant | diethyl phosphite | 0.1 moles | P(OCC)(OCC)[O-]
reactant | water | O | H2O
reactant | 1-methyl-2-phenoxyethyl amine | 0.1 moles | CC(COC1=CC=CC=C1)N | C9H13NO
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-2-phenoxyethyl-ammoniumethyl phosphonate | Yield: 81.9% | C(C)P([O-])([O-])=O.CC(COC1=CC=CC=C1)[NH3+].CC(COC1=CC=CC=C1)[NH3+] | InChI=1S/2C9H13NO.C2H7O3P/c2*1-8(10)7-11-9-5-3-2-4-6-9;1-2-6(3,4)5/h2*2-6,8H,7,10H2,1H3;2H2,1H3,(H2,3,4,5)
